US04632930
4-(1-Methylethyl)-5-(4-methylsulfonylphenyl)-α,α-bis(trifluoromethyl)-1H-imidazole-2-methanamine
A mixture of 1.8 g (4.5 mmoles) of 4-(1-methylethyl)-5-(4-methylthiophenyl)-α,α-bis(trifluoromethyl)-1H-imidazole-2-methanamine, 7.25 g (11.8 mmoles) of Oxone® (potassium hydrogen persulfate) and 50 ml of methanol were stirred together overnight. The solid was filtered off and the filtrate was evaporated in vacuo. The residue was partitioned between ethyl acetate and water and the layers were separated. The organic layer was washed with water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to afford 2.1 g of an oil. The product was purified via flash chromatography on silica gel (73:27 hexane/ethyl acetate) to afford 1.02 g (53%) of the title compound as an off-white crystalline solid, m.p. 155°-157° C.

reactant | 4-(1-methylethyl)-5-(4-methylthiophenyl)-α,α-bis(trifluoromethyl)-1H-imidazole-2-methanamine | 4.5 mmoles, 1.8 g | CC(C)C=1N=C(NC1C1=CC=C(C=C1)SC)C(N)(C(F)(F)F)C(F)(F)F | C16H17F6N3S
reactant | Oxone | 11.8 mmoles, 7.25 g | OOS(=O)[O-].[K+]
reactant | potassium hydrogen persulfate | S(=O)(=O)(O)OOS(=O)(=O)[O-].[K+]
reactant | methanol | 50 ml | CO | CH4O
product | 4-(1-Methylethyl)-5-(4-methylsulfonylphenyl)-α,α-bis(trifluoromethyl)-1H-imidazole-2-methanamine | 2.1 g | CC(C)C=1N=C(NC1C1=CC=C(C=C1)S(=O)(=O)C)C(N)(C(F)(F)F)C(F)(F)F | C16H17F6N3O2S
